US04455264
93 g (0.5 mol) of pivalic acid anhydride and 1 g of sodium cyanide are initially introduced and 49.5 g (0.5 mol) of trimethylsilyl cyanide are added dropwise. The reaction mixture is worked up by distillation. Yield: 56 g of pivaloyl cyanide (=98.9% of theory). Boiling point: 121°-125° C. In addition, pivalic acid-trimethylsilyl ester is obtained in a corresponding amount (98% of theory).

reactant | pivalic acid anhydride | 0.5 mol, 93 g | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | sodium cyanide | 1 g | [C-]#N.[Na+]
reactant | trimethylsilyl cyanide | 0.5 mol, 49.5 g | C[Si](C)(C)C#N | C4H9NSi
product | pivalic acid-trimethylsilyl ester | C[Si](C)(C)OC(C(C)(C)C)=O | C8H18O2Si
